* C:\Users\rb\Documents\HSRW\Teaching\EE_EEng\REPO\EE_1.08_2_EEng_WS2022\eeng0300_Capacitors\LTspice\RC-lowpass_PWM_V001.asc
C1 V_C1 0 1µF
R1 N001 V_C1 10k
V1 N001 0 PULSE(0V 5V 0 1e-9s 1e-9s 500us 1ms 50)
.tran 0 50ms 0ms .01ms
.backanno
.end
